US08198269B2
(4) Synthesis of tert-butyl (±)-[(4aR*,8aS*)-8a-(2,2-difluoro-6-nitrobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate
Fuming nitric acid (7.60 μl) was added to a solution (±)-(4aR*,8aS*)-8a-(2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine (50.0 mg) in TFA (1.0 ml) in an ice bath. Then, concentrated sulfuric acid (0.5 ml) was added dropwise. After stirring at the same temperature for one hour, the reaction mixture was poured into ice to terminate the reaction. The mixture was neutralized with 5 N hydroxide. The aqueous layer was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain an intermediate. The resulting intermediate was dissolved in THF (10 ml). Di-tert-butyl dicarbonate (66.8 mg) and triethylamine (64.5 μl) were added and the mixture was stirred at room temperature for one hour. Further, di-tert-butyl dicarbonate (130 mg) and triethylamine (1.00 ml) were added and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (62.0 mg).

reactant | nitric acid | 7.60 μl | [N+](=O)(O)[O-] | HNO3
reactant | (±)-(4aR*,8aS*)-8a-(2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 50.0 mg | FC1(OC2=C(O1)C=CC=C2[C@@]21COCC[C@H]1CSC(=N2)N)F | C14H14F2N2O3S
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydroxide | 5 N | [OH-]
reactant | Di-tert-butyl dicarbonate | 66.8 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 130 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | TFA | 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 1.00 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 64.5 μl | C(C)N(CC)CC | C6H15N
product | tert-butyl (±)-[(4aR*,8aS*)-8a-(2,2-difluoro-6-nitrobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 62.0 mg | FC1(OC2=C(O1)C=C(C=C2[C@@]21COCC[C@H]1CSC(=N2)NC(OC(C)(C)C)=O)[N+](=O)[O-])F | C19H21F2N3O7S
